US04171431
A reaction mixture consisting of 1.28 gm. (0.010 mole) 5,6-dihydro-5-methyl-s-triazine-2,4(1H,3H)-dione, 40 ml. pyridine, and 4.0 ml. bis-trimethylsilyltrifluoroacetamide is stirred continuously at 25° C. for 18 hours. The volatiles are then removed by evaporation under reduced pressure, and the residue thus obtained is freed of any pyridine by adding acetonitrile and distilling under reduced pressure. The distillation is repeated and there is thus obtained a quantitative yield of 2-(trimethylsilyloxy)-5,6-dihydro-5-methyl-s-triazine-4(3H)-one.

reactant | 5,6-dihydro-5-methyl-s-triazine-2,4(1H,3H)-dione | 0.010 mole | CN1C(NC(NC1)=O)=O | C4H7N3O2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | bis-trimethylsilyltrifluoroacetamide | C[Si](C)(C)N(C(C(F)(F)F)=O)[Si](C)(C)C | C8H18F3NOSi2
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-(trimethylsilyloxy)-5,6-dihydro-5-methyl-s-triazine-4(3H)-one | quantitative yield | C[Si](OC1=NCN(C(N1)=O)C)(C)C | C7H15N3O2Si
